US04473394
Preparation of 4-[((4,6-dimethylpyrimidin-2-yl)aminocarbonyl)aminosulfonyl]-1H-pyrrole-2-carboxylic acid, methyl ester
To a stirred suspension of 2.58 g (0.021 mol) of 2-amino-4,6-dimethylpyrimidine in 75 ml dry nitromethane at -10° was added dropwise, via syringe, under nitrogen, 2.0 ml (0.023 mol) of chlorosulfonyl isocyanate at such a rate to maintain the temperature below 0°. The resulting clear solution was stirred 0.5 hour at -5° to -10°, then treated dropwise with a solution of 2.29 g (0.021 mole) of methyl pyrrole-2-carboxylate in 25 ml dry nitromethane. Upon completion of the addition, 2.95 gm (0.022 mole) of aluminum (III) chloride was added in one portion. The reaction mixture was heated at reflux for 2 hours, then allowed to stand overnight at ambient temperatures. The mixture was poured into 300 ml H2O and the two phase system extracted with three portions of CH2Cl2. The organic solutions were washed with water, dried over MgSO4 and evaporated to a tan foam which was triturated with minimal CH2Cl2 to afford the product as a white solid, m.p. 202°-204°.

reactant | 2-amino-4,6-dimethylpyrimidine | 0.021 mol, 2.58 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | chlorosulfonyl isocyanate | 0.023 mol, 2.0 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | methyl pyrrole-2-carboxylate | 0.021 mole, 2.29 g | N1C(=CC=C1)C(=O)OC | C6H7NO2
reactant | aluminum (III) chloride | 0.022 mole, 2.95 gm | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitromethane | 75 ml | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 25 ml | [N+](=O)([O-])C | CH3NO2
solvent | H2O | 300 ml | O | H2O
product | 4-[((4,6-dimethylpyrimidin-2-yl)aminocarbonyl)aminosulfonyl]-1H-pyrrole-2-carboxylic acid, methyl ester | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C=1C=C(NC1)C(=O)OC | C13H15N5O5S
